US04831193
reacting 3-nitrobenzotrifluoride with dimethyloxosulfonium methylide to produce 2-methyl-3-nitro-benzotrifluoride; and

reactant | 3-nitrobenzotrifluoride | [N+](=O)([O-])C=1C=C(C=CC1)C(F)(F)F | C7H4F3NO2
reactant | dimethyloxosulfonium methylide | CS(=C)(=O)C | C3H8OS
product | 2-methyl-3-nitro-benzotrifluoride | CC1=C(C=CC=C1[N+](=O)[O-])C(F)(F)F | C8H6F3NO2
